US04999436
3-Acetoxy-2-(4-methoxyphenyl)-4,5,6,7-tetrahydrobenzo [b]thiophene
A solution of 1.5 mL (10.7 mmol) of diisopropylamine in 10 mL of dry tetrahydrofuran was cooled to -78° under nitrogen. To this was added 4 mL of 2.5M n-butyllithium (in hexane) and after 15 minutes, a solution of 1.36 g (3 mmol) of ethyl 2,2-bis-(4-methoxyphenyl)methylthiocyclohexanecarboxylate in 5 mL of dry tetrahydrofuran was added and the solution was stirred under N2 for 2 hours. Then 1.5 mL (15 mmol) of acetic anhydride was added and the solution was stirred at room temperature for 1 hour. The solution was partitioned between ether and NaHCO3 and the ether layer was washed with NaHCO3, then brine, and dried over MgSO4. The solution was concentrated and the residue chromatographed on silica gel (20% ethyl acetate-hexane) to afford a colorless oil. This was crystallized from ethyl acetate-hexane to afford 0.394 g (47%) of title compound as a white crystalline solid, m.p. 81° C. NMR (CDCl3, (CH3)4Si) δ1.81 (4H, m), 2.25 (3H, s, CH3CO), 2.35 (2H, t, J=6Hz), 2.71 (2H, t J=6Hz), 3.80 (3H, s, OCH3), 6.90 (2H, AB), 7.39 (2H, AB).

reactant | diisopropylamine | 10.7 mmol, 1.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.5M, 4 mL | C(CCC)[Li]
reactant | ethyl 2,2-bis-(4-methoxyphenyl)methylthiocyclohexanecarboxylate | 3 mmol, 1.36 g | COC1=CC=C(C=C1)CC1(C(CCCC1)C(=S)OCC)CC1=CC=C(C=C1)OC | C25H32O3S
reactant | acetic anhydride | 15 mmol, 1.5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-Acetoxy-2-(4-methoxyphenyl)-4,5,6,7-tetrahydrobenzo [b]thiophene | 0.394 g, 47% | C(C)(=O)OC=1C2=C(SC1C1=CC=C(C=C1)OC)CCCC2 | C17H18O3S
